US04885283
0.25 g of [[[N-(1-benzoyl-L-prolyl)-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester was dissolved in a mixture of 1 ml of acetic acid and 1 ml of 45% hydrogen bromide in acetic acid and the mixture was left to stand at room temperature overnight. The solution was treated with diethyl ether. The precipitated gum was allowed to settle and the ethereal solution was removed by decantation. Further treatment with diethyl ether followed by dichloromethane and subsequent drying in a high vacuum yielded 0.17 g of [[[(N-(1-benzoyl-L-prolyl)-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid in the form of a light brown foam containing some hydrogen bromide.

reactant | [[[N-(1-benzoyl-L-prolyl)-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid ethyl ester | 0.25 g | C(C)OP(=O)(CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CNC([C@@H](NC([C@H]1N(CCC1)C(C1=CC=CC=C1)=O)=O)CC(C)C)=O | C35H58N5O7P
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen bromide | 1 ml | Br | BrH
product | [[(N-(1-benzoyl-L-prolyl)-L-leucyl]amino]methyl][(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl]phosphinic acid | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCP(O)(=O)CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O)CCC1 | C33H54N5O7P
